US05294632
N-t-Butoxycarbonyl-β-alanine (5.8 mmol) in ethyl acetate (30 mL) and methylene chloride (7.5 mL) is cooled under nitrogen to 0° with an ice bath and treated with N-methylmorpholine (5.8 mmol). Isobutyl chloroformate (5.8 mmol) is added dropwise. After 5 minutes of stirring, 3-aminopropionitrile (6.4 mmol) in methylene chloride (5.0 mL) is added slowly. Stirring is continued for 1 hour at 0°, then for 4 hours at room temperature. Ethyl acetate (30 mL) is added and the solution is successively washed with cold water (100 ml), saturated sodium bicarbonate (10 mL) and water (10 mL). The organic layer is dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 3-(t-butoxycarbonylamino)-N-(2-cyanoethyl)propionamide.

reactant | N-t-Butoxycarbonyl-β-alanine | 5.8 mmol | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | N-methylmorpholine | 5.8 mmol | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 5.8 mmol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-aminopropionitrile | 6.4 mmol | NCCC#N | C3H6N2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 7.5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-(t-butoxycarbonylamino)-N-(2-cyanoethyl)propionamide | C(C)(C)(C)OC(=O)NCCC(=O)NCCC#N | C11H19N3O3
